US06831081B2
N-(4-Chlorobenzyl)-2-(hydroxymethyl)-7-(2-methoxyethyl)-4-oxo-4,7-dihydro-thieno[2,3-b]pyridin-5-carboxamide.
Potassium carbonate (5.0 g) and bromoethylmethyl ether (5.0 g) are added to a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide (11.4 g, prepared as described in U.S. Pat. No. 6,239,142) in anhydrous DMF (350 mL). The reaction mixture is stirred at room temperature for 18 b. The mixture is diluted with water (600 mL) and filtered. The resulting white powder is dried in a vacuum oven to afford 8.44 g of the title compound as a white solid. Physical characteristics. M.p. 193° C.; 1H NMR (300 MHz, DMSO-d6) δ 10.58, 8.65, 7.37, 7.29, 5.82, 4.70, 4.54, 4.47, 3.76, 3.24. HRMS (FAB) m/z 407.0836 (M+H)+. Anal. Found: C, 55.81; H, 4.71; N, 6.90; Cl, 8.58, S, 7.81.

reactant | Potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoethylmethyl ether | 5.0 g | BrCCOC | C3H7BrO
reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CO)O)C=C1 | C16H13ClN2O3S
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
solvent | water | 600 mL | O | H2O
product | N-(4-Chlorobenzyl)-2-(hydroxymethyl)-7-(2-methoxyethyl)-4-oxo-4,7-dihydro-thieno[2,3-b]pyridin-5-carboxamide | 8.44 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCOC)SC(=C3)CO)=O)C=C1 | C19H19ClN2O4S
